datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCC[N:10](CC(O)CC)CC(O)CC.CN(C1=[N+:21]([H:20])CCO1)c1ccccc1>>CCC[N+:10](CC(O)CC)(CC(O)CC)[H:20].CN(C1=[N:21]CCO1)c1ccccc1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc2c(CC[NH2:10])c[nH]c2c1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc2c(CC[NH2+:10][H:20])c[nH]c2c1 10=20;20,21=21",
"CC[NH+](CC)CCNc1nc(Nc2ccc(Cl)cc2)cc(C)[n+:21]1[H:20].FC(F)(F)c1ncnc2nc[n-:10]c12>>CC[NH+](CC)CCNc1nc(Nc2ccc(Cl)cc2)cc(C)[n:21]1.FC(F)(F)c1ncnc2nc[n:10]([H:20])c12 10=20;20,21=21",
"OC[C@@H]1O[C@H](n2c[n:10]c3ccccc32)[C@@H](O)[C@H](O)[C@H]1O.[O-]c1c2ccccc2nc[n+:21]1[H:20]>>OC[C@@H]1O[C@H](n2c[n+:10]([H:20])c3ccccc32)[C@@H](O)[C@H](O)[C@H]1O.[O-]c1c2ccccc2nc[n:21]1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])C(Cc1cccnc1)[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])C(Cc1cccnc1)[NH2+:10][H:20] 10=20;20,21=21",
"CC(O)C[NH:10]CC[NH3+].Cc1cc2cccc(C)c2[n+:21]([H:20])c1C>>CC(O)C[NH+:10](CC[NH3+])[H:20].Cc1cc2cccc(C)c2[n:21]c1C 10=20;20,21=21",
"Ic1cccc2ccc([O:21][H:20])cc12.Nc1cccc[n:10]1>>Ic1cccc2ccc([O-:21])cc12.Nc1cccc[n+:10]1[H:20] 10=20;20,21=21",
"[O-]c1cccc([O-:10])c1.[O-]c1ccccc1C[N+:21]1([H:20])CCCCC1>>[O-]c1cccc([O:10][H:20])c1.[O-]c1ccccc1C[N:21]1CCCCC1 10=20;20,21=21",
"C[Si](C)(CNC1CCCCC1)O[Si](C)(C)C[NH:10]C1CCCCC1.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>C[Si](C)(CNC1CCCCC1)O[Si](C)(C)C[NH+:10](C1CCCCC1)[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"OC1(c2cc3ccccc3o2)C[N+:21]2([H:20])CCC1CC2.c1cc2c(cc1[O-:10])CCC2>>OC1(c2cc3ccccc3o2)C[N:21]2CCC1CC2.c1cc2c(cc1[O:10][H:20])CCC2 10=20;20,21=21",
"CSC(C)=[N+:21](C)[H:20].c1ncc2cn[n-:10]c2n1>>CSC(C)=[N:21]C.c1ncc2cn[n:10]([H:20])c2n1 10=20;20,21=21",
"[H:20][OH:21].COC1=CC=C(C=C1)[N+]2=[C-:10]N3CCCC3=N2>>[H:20][C:10]1=[N+](N=C2N1CCC2)C3=CC=C(C=C3)OC.[OH-:21] 10=20;20,21=21",
"CCCC[NH:10]Cc1ccccc1.Nc1ccc2c[n+:21]([H:20])[nH]c2c1>>CCCC[NH+:10](Cc1ccccc1)[H:20].Nc1ccc2c[n:21][nH]c2c1 10=20;20,21=21",
"Cc1cc(C[NH+](C)C)c([O-:10])c(C[NH+](C)C)c1.Cn1cc[n+:21]([H:20])c1CS>>Cc1cc(C[NH+](C)C)c([O:10][H:20])c(C[NH+](C)C)c1.Cn1cc[n:21]c1CS 10=20;20,21=21",
"C1CCC[NH:10]CCC1.CC(=O)c1cc(C(=O)C(C)(C)C)[n:21]([H:20])n1>>C1CCC[NH+:10]([H:20])CCC1.CC(=O)c1cc(C(=O)C(C)(C)C)[n-:21]n1 10=20;20,21=21",
"CCC(=O)c1cc(C(=O)c2ccccc2)n[n:21]1[H:20].O=C(NNc1ccc(Br)cc1)c1cc[n:10]cc1>>CCC(=O)c1cc(C(=O)c2ccccc2)n[n-:21]1.O=C(NNc1ccc(Br)cc1)c1cc[n+:10]([H:20])cc1 10=20;20,21=21",
"O=C(O)C[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C(O)C[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=N[O-])/C(C)=N/[O:21][H:20].Cc1ccc(C[NH2:10])cc1>>CC(=N[O-])/C(C)=N/[O-:21].Cc1ccc(C[NH2+:10][H:20])cc1 10=20;20,21=21",
"C[n+]1ccccc1C(C)(O)[O-:10].[O-][n+]1ccc(N[O:21][H:20])c2ccccc21>>C[n+]1ccccc1C(C)(O)[O:10][H:20].[O-][n+]1ccc(N[O-:21])c2ccccc21 10=20;20,21=21",
"CSc1cccc([NH2+:21][H:20])c1.c1ccc(CCCC[NH2:10])nc1>>CSc1cccc([NH2:21])c1.c1ccc(CCCC[NH2+:10][H:20])nc1 10=20;20,21=21",
"Cc1cc([N+](=O)[O-])cc2c1nnn2[O-:10].Cn1ncc2c(NCc3ccco3)nc[n+:21]([H:20])c21>>Cc1cc([N+](=O)[O-])cc2c1nnn2[O:10][H:20].Cn1ncc2c(NCc3ccco3)nc[n:21]c21 10=20;20,21=21", 
"O=C1C=C(c2ccccc2[O-:10])Oc2ccccc21.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C1C=C(c2ccccc2[O:10][H:20])Oc2ccccc21.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCC[N+:21]1([H:20])CCCCC1.Cc1cccc(C(=O)[O-])[n:10]1>>CCCC[N:21]1CCCCC1.Cc1cccc(C(=O)[O-])[n+:10]1[H:20] 10=20;20,21=21",
"C[C:21](C1=CC=C([N+](=O)[O-])C=C1)([N+](=O)[O-])[H:20].[O-][N+]([O-])=C(CO)C[O-:10]>>C[C-:21](C1=CC=C([N+](=O)[O-])C=C1)[N+](=O)[O-].[O-][N+]([O-])=C(CO)C[O:10][H:20] 10=20;20,21=21",
"CCC(C)C(=O)CC[N:10]1CCOCC1.N#CC(C#N)=[N+:21](Nc1ccc([N+](=O)[O-])cc1Cl)[H:20]>>CCC(C)C(=O)CC[N+:10]1([H:20])CCOCC1.N#CC(C#N)=[N:21]Nc1ccc([N+](=O)[O-])cc1Cl 10=20;20,21=21",
"C[C@H]1[C@@H](O)CC[C@@H](CCCCCCCC(=O)[O-])[NH:10]1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>C[C@H]1[C@@H](O)CC[C@@H](CCCCCCCC(=O)[O-])[NH+:10]1[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].NCC(O)C[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.NCC(O)C[NH2+:10][H:20] 10=20;20,21=21",
"CNc1c2ccccc2[n:10]c2cccc([N+](=O)[O-])c12.COc1ccc(C[NH3+])cc1[NH2+:21][H:20]>>CNc1c2ccccc2[n+:10]([H:20])c2cccc([N+](=O)[O-])c12.COc1ccc(C[NH3+])cc1[NH2:21] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C(C[NH2:10])c1ccc(O)cc1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C(C[NH2+:10][H:20])c1ccc(O)cc1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CC(C)(C)C[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC(C)(C)C[NH2+:10][H:20] 10=20;20,21=21",
"CC[N:10](CC)Cc1cc(Cl)ccc1[O-].c1cncc(CCCC[NH2+:21][H:20])c1>>CC[N+:10](CC)(Cc1cc(Cl)ccc1[O-])[H:20].c1cncc(CCCC[NH2:21])c1 10=20;20,21=21",
